US08859768B2
To a solution of DIEA (1.8 mL, 10.4 mmol) in DCM (50 mL) at 0° C. was added N-(2,4-dimethoxybenzyl)-4-iodo-5-methylpyridin-2-amine (2.0 g, 5.2 mmol) and cyclopropanecarbonyl chloride (0.66 mL, 7.3 mmol). The reaction mixture was allowed to stir at 0° C. for 2 h and then diluted with DCM and aqueous ammonium chloride. The aqueous solution was removed and the organic solution was dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography to give N-(2,4-dimethoxybenzyl)-N-(4-iodo-5-methylpyridin-2-yl)cyclopropanecarboxamide (1.8 g, 78%).

reactant | DIEA | 10.4 mmol, 1.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(2,4-dimethoxybenzyl)-4-iodo-5-methylpyridin-2-amine | 5.2 mmol, 2.0 g | COC1=C(CNC2=NC=C(C(=C2)I)C)C=CC(=C1)OC | C15H17IN2O2
reactant | cyclopropanecarbonyl chloride | 7.3 mmol, 0.66 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
product | N-(2,4-dimethoxybenzyl)-N-(4-iodo-5-methylpyridin-2-yl)cyclopropanecarboxamide | 1.8 g, 78% | COC1=C(CN(C(=O)C2CC2)C2=NC=C(C(=C2)I)C)C=CC(=C1)OC | C19H21IN2O3
